US04559354
At an internal temperature of 0°-50°, 10 g of potassium tert.-butoxide are added to a solution of 20 g of 2-(4-methoxyphenyl)-4-(trifluoromethyl)-1H-imidazole in 200 ml of dimethylformamide. After 20 minutes 10.7 ml of isopropyl iodide are added and the reaction mixture is subsequently stirred at room temperature. After 24 hours in each case, a further 10 g of potassium tert.-butoxide are added and then 10.7 ml of isopropyl iodide. In total, these measures are repeated three times. The total reaction period is 120 hours. Finally, the solvent is removed in a rotary evaporator, the residue is taken up in water and extracted several times with ethyl acetate. After evaporating off the organic phase, the residue is chromatographed on silica gel with ethyl acetate/hexane and 2-(4-methoxyphenyl)-1-isopropyl-4-(trifluoromethyl)-1H-imidazole is isolated from the main fractions in the form of a yellowish oil.

reactant | potassium tert.-butoxide | 10 g | CC(C)([O-])C.[K+]
reactant | 2-(4-methoxyphenyl)-4-(trifluoromethyl)-1H-imidazole | 20 g | COC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F | C11H9F3N2O
reactant | isopropyl iodide | 10.7 ml | C(C)(C)I | C3H7I
reactant | potassium tert.-butoxide | 10 g | CC(C)([O-])C.[K+]
reactant | isopropyl iodide | 10.7 ml | C(C)(C)I | C3H7I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-methoxyphenyl)-1-isopropyl-4-(trifluoromethyl)-1H-imidazole | COC1=CC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)C(C)C | C14H15F3N2O
